US07153997B2
HCl gas was bubbled through a solution of 3,5-dichloro-2-methyl-4-(3-bromo-4-hydroxy-5-isopropylphenoxy)benzoic acid (375 mg, 0.86 mmol) in MeOH (20 mL) for 5 min. Upon stirring at 20° C. for 22 hr, HPLC analysis revealed esterification was complete. After removal of the solvent under vacuum and dissolution of the residue in EtOAc, the EtOAc layer was washed 2× with H2O then with brine prior to drying over MgSO4. Removal of the volatiles yielded 391 mg of crude methyl 3,5-dichloro-2-methyl-4-(3-bromo-4-hydroxy-5-isopropylphenoxy)benzoate as a brown solid which was not further purified.

reactant | HCl | Cl | ClH
reactant | 3,5-dichloro-2-methyl-4-(3-bromo-4-hydroxy-5-isopropylphenoxy)benzoic acid | 0.86 mmol, 375 mg | ClC=1C(=C(C(=O)O)C=C(C1OC1=CC(=C(C(=C1)C(C)C)O)Br)Cl)C | C17H15BrCl2O4
reactant | MeOH | 20 mL | CO | CH4O
product | methyl 3,5-dichloro-2-methyl-4-(3-bromo-4-hydroxy-5-isopropylphenoxy)benzoate | 391 mg | ClC=1C(=C(C(=O)OC)C=C(C1OC1=CC(=C(C(=C1)C(C)C)O)Br)Cl)C | C18H17BrCl2O4
